Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Motor vehicle collision
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Presented as a trauma basic notification. See paper H&P which 
has been scanned into the electronic medical record. 
 
Past Medical History:
DM, HTN
 
Family History:
Non-contributory
 
Physical Exam:
VS: AVSS, see flowsheets
GEN: No distress, pleasant, conversant
HEENT:  Sclera non-icteric, neck is supple without 
lymphadenopathy, thyromegaly or JVD
HEART:  RRR with no murmurs
CHEST:  No increased work of breathing, clear to auscultation 
bilaterally, no crackles or wheezes
ABDOMEN: Soft, non-tender, no rebound or guarding
EXTREMITIES: Warm, well perfused, no edema 
 
Pertinent Results:
___ 07:35AM   GLUCOSE-121* UREA N-17 CREAT-1.0 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-23 ANION GAP-18*
___ 07:35AM   CALCIUM-8.9 PHOSPHATE-3.2 MAGNESIUM-2.1
___ 07:35AM   WBC-14.1* RBC-5.15 HGB-15.1 HCT-42.9 MCV-83 
MCH-29.3 MCHC-35.2 RDW-12.8 RDWSD-38.6
___ 07:35AM   PLT COUNT-177
___ 09:46PM   GLUCOSE-132* LACTATE-2.0 NA+-143 K+-3.4 
CL--104 TCO2-23
___ 09:30PM   UREA N-20 CREAT-1.0
___ 09:30PM   WBC-10.9* RBC-5.35 HGB-15.4 HCT-44.8 MCV-84 
MCH-28.8 MCHC-34.4 RDW-12.7 RDWSD-38.4
___ 09:30PM   WBC-10.9* RBC-5.35 HGB-15.4 HCT-44.8 MCV-84 
MCH-28.8 MCHC-34.4 RDW-12.7 RDWSD-38.4
___ 09:30PM   ___ PTT-25.5 ___
 
Brief Hospital Course:
___ was admitted to ___ after sustaining a fall 
from a motorized scooter and presenting in the trauma bay. There 
was concern about a syncopal event (loss of consciousness) 
preceding the accident. Therefore, we obtained an EKG which 
demonstrated an abnormal heart rhythm known as a right bundle 
branch block. An ECHO was also obtained which showed no 
abnormality of the patient's heart or valves. Cardiology was 
consulted and they recommended follow-up with his cardiologist 
for a 21 day Holter monitor study with Dr. ___. 

In addition, orthopedics was consulted for right shoulder pain 
and recommended follow ___ clinic as an outpatient 
for further evaluation or possible MRI of Right shoulder. 

By hospital day #2, the patient was deemed medically stable for 
discharge. He expressed understanding and agreement with his 
discharge plan. 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Motorized vehicle collision

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 
You were recently admitted to ___ after sustaining a fall from 
a motorized scooter. There was concern about a syncopal event 
(loss of consciousness) preceding your accident, or if the 
accident caused you to loose consciousness. Therefore, we 
obtained an EKG which demonstrated an abnormal heart rhythm 
known as a right bundle branch block. An ECHO was also obtained 
which showed no abnormality of your heart or valves. Cardiology 
was consulted and they recommended that you follow-up with your 
cardiologist for a 21 day Holter monitor study with Dr. ___. 

In addition, orthopedics was consulted for your right shoulder 
pain. They made the following recommendations: 

If your pain in shoulder continues in ___ weeks and you 
experience limited range of motion in your shoulder, please 
follow up in ___ clinic as an outpatient for further 
evaluation or possible MRI of Right shoulder.  
 
Followup Instructions:
___